US07807776B2
To a dry 3-necked flask under nitrogen is added magnesium filings (354 mg, 14.6 mmol). A solution of 2,5-dibromo-3-hexylthiophene (4.41 g, 13.5 mmol) in anhydrous THF (45 ml) is prepared and 5 ml of this solution is added to the magnesium at 5° C. The reaction is initated by the addition of 2-bromopropane (80 mg, 0.65 mmol). After 5 min, the remaining solution of 2,5-dibromothiophene is added dropwise, keeping the temperature below 10° C. The resulting yellow solution is warmed to room temperature and stirred for 4 h at that temperature. An aliquot is taken, hydrolysed with dilute hydrochloric acid and analysed by GCMS to reveal 98% formation of monogrignard reagent and 2% formation of a digrignard reagent. No starting material remained. The solution is transferred, via cannula, to a new reaction vessel and heated to reflux. 1,2-bis{diphenylphosphinopropane)dichloronickel (II) (72 mg, 1 mol %) is added as a solid and the reaction refluxed for 4 h. The reaction is cooled to room temperature and precipitated into methanol. The resulting polymer is filtered, and washed with additional methanol (soxhlet) and heptane (soxhlet). The resulting polymer is dissolved in chloroform and precipitated into methanol to afford 0.6 g of polymer.

reactant | magnesium | [Mg] | Mg
reactant | 2-bromopropane | 0.65 mmol, 80 mg | BrC(C)C | C3H7Br
reactant | 2,5-dibromothiophene | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 45 ml | C1CCOC1 | C4H8O
product | 2,5-dibromo-3-hexylthiophene | 13.5 mmol, 4.41 g | BrC=1SC(=CC1CCCCCC)Br | C10H14Br2S
